US04352933
A mixture of 10.0 g (0.07 mol) of 2-methylthio-4-hydroxypyrimidine and 12.4 g (0.079 mol) of 2-methyl-5-formylpyridine hydrochloride in 75 ml of concentrated hydrochloric acid was heated at reflux for 1 hour. After working up as in Example 1 an oil is obtained which is taken up in methylene chloride-methanol then recrystallized from ethyl acetate to give 4-hydroxy-5-[(6-methyl-3-pyridinyl)hydroxymethyl]-2-methylthiopyrimidine; 9.3 g (50%), m.p. 140°.

reactant | 2-methylthio-4-hydroxypyrimidine | 0.07 mol, 10.0 g | CSC1=NC=CC(=N1)O | C5H6N2OS
reactant | 2-methyl-5-formylpyridine hydrochloride | 0.079 mol, 12.4 g | Cl.CC1=NC=C(C=C1)C=O
solvent | hydrochloric acid | 75 ml | Cl | ClH
solvent | methylene chloride methanol | C(Cl)Cl.CO
product | 4-hydroxy-5-[(6-methyl-3-pyridinyl)hydroxymethyl]-2-methylthiopyrimidine | OC1=NC(=NC=C1C(O)C=1C=NC(=CC1)C)SC | C12H13N3O2S
